US09023858B2
A) N-[4-(2,2,2-trifluoroethoxy)phenyl]butanimidamide
A mixture of ethyl butylimidate hydrochloride (10.0 g), 4-(2,2,2-trifluoroethoxy)aniline (12.6 g), triethylamine (6.67 g) and THF (250 mL) was stirred at 70° C. for 2 days. To the reaction mixture were added ethyl acetate and water, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The residue was subjected to aminopropylsilane-bonded silica gel column chromatography (ethyl acetate/hexane) to give the title compound (4.80 g) as a solid.

reactant | 4-(2,2,2-trifluoroethoxy)aniline | 12.6 g | FC(COC1=CC=C(N)C=C1)(F)F | C8H8F3NO
reactant | triethylamine | 6.67 g | C(C)N(CC)CC | C6H15N
reactant | THF | 250 mL | C1CCOC1 | C4H8O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | N-[4-(2,2,2-trifluoroethoxy)phenyl]butanimidamide | 4.80 g | FC(COC1=CC=C(C=C1)NC(CCC)=N)(F)F | C12H15F3N2O
